US04459306
11H-dibenzo (b,e)-1,4-dioxepine-11-one
5.06 g of 2-(2-hydroxyphenoxy) benzoic acid were suspended in 35 ml of newly distilled acetic anhydride, then the mixture was refluxed for 3 hours while the reaction is controlled from time to time by analyzing a sample of the mixture by gas chromatography. The excess of acetic anhydride was then removed by distillation under reduced pressure and the oily residue crystallized at rest. The crystals were left overnight in a refrigerator; then they were taken up with some ml of ether. The crystalline mass was filtered off, squeezed out, rinsed with some ml of ether and dried under vacuum. The obtained dibenzo (b,e) dioxepinone was purified on fractional distillation under reduced pressure. The pure product distills over at 0.01 mmHg, and melts at 62°-66° C.

reactant | 2-(2-hydroxyphenoxy) benzoic acid | 5.06 g | OC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC=C1 | C13H10O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 11H-dibenzo (b,e)-1,4-dioxepine-11-one | C1=CC=CC=2OC3=C(OC(C21)=O)C=CC=C3 | C13H8O3
